### PR TITLE
[Merged by Bors] - feat(RingTheory/Flat): faithfully flat ring maps

### PR DESCRIPTION
**Pull request by judithludwig**
Add definition of faithfully flat ring maps and show basic properties.
Co-authored-by: Florent Schaffhauser (github: matematiflo)
Co-authored-by: Jujian Zhang (github:@jjaassoonn)
Co-authored-by: Yunzhou Xie (github:@whysoserioushah)

This contribution was created as part of the AIM workshop "Formalizing algebraic geometry" in
June 2024.

---

- [x] depends on: #17803
- [x] depends on: #17805
- [x] depends on: #17484
- [x] depends on: #17869

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by judithludwig** [comment]
There is the following alternative definition of faithfully flat ring map and there should probably be a discussion about which one should become the ```mathlib``` definition: 
```
@[mk_iff] class FaithfullyFlat' : Prop where
  flat : Module.Flat R M := by infer_instance
   submodule_ne_top :  ∀ ⦃m : Ideal R⦄ (_ : Ideal.IsMaximal m), m • (⊤ : Submodule R M) ≠ ⊤ 
```
This would avoid universe issues.

**Comment by riccardobrasca** [comment]
> There is the following alternative definition of faithfully flat ring map and there should probably be a discussion about which one should become the `mathlib` definition:
> 
> ```
> variable (R : Type u) (M : Type v) [CommRing R] [AddCommGroup M] [Module R M]
> 
> @[mk_iff] class FaithfullyFlat' : Prop where
>   flat : Module.Flat R M := by infer_instance
>    submodule_ne_top :  ∀ ⦃m : Ideal R⦄ (_ : Ideal.IsMaximal m), m • (⊤ : Submodule R M) ≠ ⊤ 
> ```
> 
> This would avoid universe issues.

I think this second version is better. I understand that it is probably not easy to show the equivalence, but putting in mathlib a definition that we know we are going to change is a recipe to make people suffering (someone will start using your definition, and the refactor will be more and more painful).

Can you start adding the basic API to show equivalence? (Or anything else you need!). Thanks!

**Comment by judithludwig** [comment]
> I think this second version is better. I understand that it is probably not easy to show the equivalence, but putting in mathlib a definition that we know we are going to change is a recipe to make people suffering (someone will start using your definition, and the refactor will be more and more painful).
> 
> Can you start adding the basic API to show equivalence? (Or anything else you need!). Thanks!

I'll label this PR as work in progress for now until we sort this out. Thanks for your input.

**Comment by jjaassoonn** [comment]
I just want some very quick and general comments about if these changes are in the right direction. If so, I will split this PR

File: Mathlib/LinearAlgebra/TensorProduct/Quotient.lean [hunk 1]
```diff
@@ -0,0 +1,241 @@
...
+- `TensorProduct.quotientTensorQuotientEquiv`:
+  `(M ⧸ m) ⊗[R] (N ⧸ n) ≃ₗ[R] (M ⊗[R] N) ⧸ (m ⊗ N ⊔ M ⊗ n)`
+- `TensorProduct.quotientTensorEquiv`:
+  `(M ⧸ m) ⊗[R] N ≃ₗ[R] (M ⊗[R] N) ⧸ (m ⊗ N)`
+- `TensorProduct.tensorQuotientEquiv`:
+  `M ⊗[R] (N ⧸ n) ≃ₗ[R] (M ⊗[R] N) ⧸ (M ⊗ n)`
+- `TensorProduct.quotTensorEquivQuotSMul`:
+  `(R ⧸ I) ⊗[R] M ≃ₗ[R] M ⧸ (I • M)`
+- `TensorProduct.tensorQuotEquivQuotSMul`:
+  `M ⊗[R] (R ⧸ I) ≃ₗ[R] M ⧸ (I • M)`
```
Comment (jcommelin) [inline Mathlib/LinearAlgebra/TensorProduct/Quotient.lean:31]: This file looks good. Please go ahead and split it into a new PR.

**Comment by jcommelin** [comment]
> I just want some very quick and general comments about if these changes are in the right direction. If so, I will split this PR

@jjaassoonn the general direction looks good to me.

File: Mathlib/LinearAlgebra/TensorProduct/Quotient.lean (hunk 1 above)
Comment (jjaassoonn) [reply Mathlib/LinearAlgebra/TensorProduct/Quotient.lean:31]: Thanks. See #17803

**Comment by riccardobrasca** [comment]
Can you please fix the error?

**Comment by jjaassoonn** [comment]
Done, sorry was having late lunch

File: Mathlib/RingTheory/Flat/FaithfullyFlat.lean [hunk 2]
```diff
@@ -25,12 +25,20 @@ A module `M` over a commutative ring `R` is *faithfully flat* if it is flat and
   is flat and tensoring with `M` is faithful, i.e. `N ≠ 0` implies `N ⊗ M ≠ 0`.
 - `Module.FaithfullyFlat.iff_flat_and_lTensor_faithful`: an `R`-module `M` is faithfully flat iff it
   is flat and tensoring with `M` is faithful, i.e. `N ≠ 0` implies `M ⊗ N ≠ 0`.
-- `Module.FaithfullyFlat.iff_exact_iff_rTensor_exact`: an `R`-module `M` is faithfully flat iff
-  tensoring with `M` preserves and reflects exact sequences, i.e. the sequence `N₁ → N₂ → N₃` is
-  exact *iff* the sequence `N₁ ⊗ M → N₂ ⊗ M → N₃ ⊗ M` is exact.
-- `Module.FaithfullyFlat.iff_exact_iff_lTensor_exact`: an `R`-module `M` is faithfully flat iff
-  tensoring with `M` preserves and reflects exact sequences, i.e. the sequence `N₁ → N₂ → N₃` is
-  exact *iff* the sequence `M ⊗ N₁ → M ⊗ N₂ → M ⊗ N₃` is exact.
+- `Module.FaithfullyFlat.iff_iff_rTensor_exact`: an `R`-module `M` is faithfully flat iff tensoring
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Flat/FaithfullyFlat.lean:28]: This doc was already added in the other PR I think... or it is about a different thing?

File: Mathlib/RingTheory/Flat/FaithfullyFlat.lean [hunk 3]
```diff
@@ -343,6 +351,137 @@ end fixed_universe
...
+  classical
+  haveI : Module.Flat R M' := Module.Flat.of_linearEquiv _ _ _ e
+  refine ⟨fun m hm rid => fl.2 hm ?_⟩
+  rw [eq_top_iff] at rid ⊢
+  rintro x -
+  specialize @rid (e.symm x) ⟨⟩
+  rw [← Submodule.coe_set_smul, Submodule.mem_set_smul] at rid
+  obtain ⟨c, hc, eq⟩ := rid
+  simp only [Finsupp.sum] at eq
+  change _ = (Submodule.subtype _) _ at eq
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Flat/FaithfullyFlat.lean:431]: Can this `change` be avoided?

File: Mathlib/RingTheory/Flat/FaithfullyFlat.lean [hunk 4]
```diff
@@ -343,6 +351,137 @@ end fixed_universe
...
+  ⟨fun fl => ⟨inferInstance, fun f => zero_iff_lTensor_zero R M f |>.symm⟩,
+    fun ⟨flat, Z⟩ => iff_flat_and_lTensor_reflects_triviality R M |>.2 ⟨flat, fun N _ _ _ => by
+      have := Z (LinearMap.id : N →ₗ[R] N) |>.1 (by ext; exact Subsingleton.elim _ _)
+      rw [subsingleton_iff_forall_eq 0]
+      exact fun y => congr($this y)⟩⟩
+
+/--
+An `R`-module `M` is faithfully flat iff it is flat and for all linear maps `f`, the map
+`id ⊗ f = 0`, if and only if `f = 0`. -/
+lemma iff_zero_iff_rTensor_zero :
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Flat/FaithfullyFlat.lean:403]: Do we have the `→` implication using `Type*`?

Comment (jjaassoonn) [reply Mathlib/RingTheory/Flat/FaithfullyFlat.lean:418]: I suspect not, because the `→` direction uses `Module.FaithfullyFlat.iff_flat_and_rTensor_faithful` which we use the quotient `R / maximal ideal`, so the universe needs to be at least as large as `u` (the universe of `R`), and somewhere else we need `Module.Flat.iff_rTensor_exact` which need the universe level to be at least as large as `v` (the universe of the module)

File: Mathlib/RingTheory/Flat/FaithfullyFlat.lean (hunk 2 above)
Comment (jjaassoonn) [reply Mathlib/RingTheory/Flat/FaithfullyFlat.lean]: indeed, I accidentally switched `lTensor` and `rTensor` around

File: Mathlib/RingTheory/Flat/FaithfullyFlat.lean (hunk 3 above)
Comment (jjaassoonn) [reply Mathlib/RingTheory/Flat/FaithfullyFlat.lean]: Yes, thanks for pointing this out

File: Mathlib/RingTheory/Flat/FaithfullyFlat.lean (hunk 4 above)
Comment (jjaassoonn) [reply Mathlib/RingTheory/Flat/FaithfullyFlat.lean:418]: Basically if something is implied by faithful flatness then we can have universe polymorphism. But if we want to conclude some module as faithfully flat, then the testing object needs to be constrained by universe.

Comment (riccardobrasca) [reply Mathlib/RingTheory/Flat/FaithfullyFlat.lean:418]: Yes, this is also what I mean by the `→` implication (if the module if faithfully flat then blah blah).

Comment (jjaassoonn) [reply Mathlib/RingTheory/Flat/FaithfullyFlat.lean:418]: In that case, `Module.FaithfullyFlat. zero_iff_rTensor_zero` already exists some lines above this lemma

Comment (riccardobrasca) [reply Mathlib/RingTheory/Flat/FaithfullyFlat.lean:418]: OK, sorry.

File: Mathlib/RingTheory/Flat/FaithfullyFlat.lean [hunk 5]
```diff
@@ -343,6 +351,129 @@ end fixed_universe
...
+- `M` is flat
+- for any `R`-linear map `f : N → N'`, `f` = 0 iff `f ⊗ 𝟙M = 0` iff `𝟙M ⊗ f = 0`
+
+-/
+
+section arbitrary_universe
+
+/--
+If `M` is a faithfully flat module, then for all linear maps `f`, the map `id ⊗ f = 0`, if and only
+if  `f = 0`. -/
```
Comment (jcommelin) [inline Mathlib/RingTheory/Flat/FaithfullyFlat.lean:370]:
```suggestion
if `f = 0`. -/
```

File: Mathlib/RingTheory/Flat/FaithfullyFlat.lean [hunk 6]
```diff
@@ -343,6 +351,129 @@ end fixed_universe
...
+    have := lTensor_reflects_exact R M f LinearMap.id (by
+      rw [LinearMap.exact_iff, hf, LinearMap.range_zero, LinearMap.ker_eq_bot]
+      apply Module.Flat.lTensor_preserves_injective_linearMap
+      exact fun _ _ h => h)
+    ext x; simpa using this (f x)⟩
+
+
+/--
+If `M` is a faithfully flat module, then for all linear maps `f`, the map `f ⊗ id = 0`, if and only
+if  `f = 0`. -/
```
Comment (jcommelin) [inline Mathlib/RingTheory/Flat/FaithfullyFlat.lean:385]:
```suggestion
if `f = 0`. -/
```

File: Mathlib/RingTheory/Flat/FaithfullyFlat.lean [hunk 7]
```diff
@@ -343,6 +351,129 @@ end fixed_universe
...
+
+section arbitrary_universe
+
+/--
+If `M` is a faithfully flat module, then for all linear maps `f`, the map `id ⊗ f = 0`, if and only
+if  `f = 0`. -/
+lemma zero_iff_lTensor_zero [h: FaithfullyFlat R M]
+    {N : Type*} [AddCommGroup N] [Module R N]
+    {N' : Type*} [AddCommGroup N'] [Module R N'] (f : N →ₗ[R] N') :
+    f = 0 ↔  LinearMap.lTensor M f = 0 :=
```
Comment (jcommelin) [inline Mathlib/RingTheory/Flat/FaithfullyFlat.lean:374]:
```suggestion
    f = 0 ↔ LinearMap.lTensor M f = 0 :=
```

File: Mathlib/RingTheory/Flat/FaithfullyFlat.lean [hunk 8]
```diff
@@ -343,6 +351,129 @@ end fixed_universe
...
+
+
+/--
+If `M` is a faithfully flat module, then for all linear maps `f`, the map `f ⊗ id = 0`, if and only
+if  `f = 0`. -/
+lemma zero_iff_rTensor_zero [h: FaithfullyFlat R M]
+    {N : Type*} [AddCommGroup N] [Module R N]
+    {N' : Type*} [AddCommGroup N'] [Module R N']
+    (f : N →ₗ[R] N') :
+    f = 0 ↔  LinearMap.rTensor M f = 0 :=
```
Comment (jcommelin) [inline Mathlib/RingTheory/Flat/FaithfullyFlat.lean:390]:
```suggestion
    f = 0 ↔ LinearMap.rTensor M f = 0 :=
```

File: Mathlib/RingTheory/Flat/FaithfullyFlat.lean [hunk 9]
```diff
@@ -343,6 +351,129 @@ end fixed_universe
...
+
+/--
+An `R`-module `M` is faithfully flat iff it is flat and for all linear maps `f`, the map
+`id ⊗ f = 0`, if and only if `f = 0`. -/
+lemma iff_zero_iff_lTensor_zero :
+    FaithfullyFlat R M ↔
+    (Module.Flat R M ∧
+      (∀ {N : Type max u v} [AddCommGroup N] [Module R N]
+        {N' : Type max u v} [AddCommGroup N'] [Module R N']
+        (f : N →ₗ[R] N'), f.lTensor M = 0 ↔ f = 0)):=
```
Comment (jcommelin) [inline Mathlib/RingTheory/Flat/FaithfullyFlat.lean:408]:
```suggestion
        (f : N →ₗ[R] N'), f.lTensor M = 0 ↔ f = 0)) :=
```

File: Mathlib/RingTheory/Flat/FaithfullyFlat.lean [hunk 10]
```diff
@@ -343,6 +351,129 @@ end fixed_universe
...
+
+/--
+An `R`-module `M` is faithfully flat iff it is flat and for all linear maps `f`, the map
+`id ⊗ f = 0`, if and only if `f = 0`. -/
+lemma iff_zero_iff_rTensor_zero :
+    FaithfullyFlat R M ↔
+    (Module.Flat R M ∧
+      (∀ {N : Type max u v} [AddCommGroup N] [Module R N]
+        {N' : Type max u v} [AddCommGroup N'] [Module R N']
+        (f : N →ₗ[R] N'), f.rTensor M = 0 ↔ (f = 0))):=
```
Comment (jcommelin) [inline Mathlib/RingTheory/Flat/FaithfullyFlat.lean:423]:
```suggestion
        (f : N →ₗ[R] N'), f.rTensor M = 0 ↔ (f = 0))) :=
```

**Review by jcommelin — COMMENTED** [review]
LGTM modulo some spaces

bors d+

**Comment by jcommelin** [comment]
Thanks :tada:

bors merge
